US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(1,2,3,6-tetrahydropyrid-1-yl)isonicotinamide
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in 1,2,3,6-tetrahydropyridine (1 ml) was heated at 120° C. for 18 h in a sealed tube. The reaction was concentrated under vacuum, the residue chromatographed on an SPE (C18) eluting with a water/acetonitrile gradient, to give after evaporation of the solvents under vacuum N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(1,2,3,6-tetrahydropyrid-1-yl)isonicotinamide. NMR; δH [2H6]—DMSO 10.31,(1H, s), 8.62,(1H, t), 8.25,(1H, d), 7.93,(2H, d), 7.72,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.18,(1H, s), 7.04,(1H, d), 5.90,(1H, m), 5.83,(1H, m), 3.99,(2H, m), 3.75,(2H, t), 3.16,(2H, t), 2.21,(5H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.44 min, MH+467.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
solvent | 1,2,3,6-tetrahydropyridine | 1 ml | N1CCC=CC1 | C5H9N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(1,2,3,6-tetrahydropyrid-1-yl)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CCC=CC1)=O | C29H30N4O2
